* Vendor library fixture (highest precedence via Manufacturer/ path)
* connections: in+ in- out
.subckt DUP 1 2 3
r1 1 3 1k
r2 2 3 1k
.ends DUP
.model VNMOS NMOS (VTO=2 KP=20u)
