* Lower-precedence duplicate of DUP (uncategorized/ path)
.subckt DUP 9 8 7
r1 9 7 2k
.ends
* An op-amp-style subckt with a continuation line and an INTERNAL model that
* must NOT be indexed as a top-level name.
.subckt OPA5 1 2 3
+ 4 5 PARAMS: gain=1e5
e1 6 0 1 2 100k
.model DX D (IS=1e-14)
.ends OPA5
